US08202866B2
2-(4-bromophenyl)-5-chloro-pentanoic acid
The 2-(4-bromophenyl)-5-chloropentane nitrile (4 g, 14.7 mmol) was hydrolyzed by refluxing for 12 h with a 3:5:3 mixture of concentrated H2SO4, glacial acietic acid, and water (33 mL). The reaction mixture was cooled to room temperature, diluted with water, and extracted with CHCl3. The organic layer was washed with brine (3 times), then dried with MgSO4, the solution was evaporated to dryness under reduced pressure, giving an oil (3.8 g, 90%). MS: calc'd 290 (MH+), exp 290 (MH+). 1H NMR (400 MHz, CDCl3), 7.46-7.56 (2H), 7.10-7.20 (2H), 3.84 (1H), 3.52 (3H), 1.60-2.20 (4H).

reactant | 2-(4-bromophenyl)-5-chloropentane nitrile | 14.7 mmol, 4 g | BrC1=CC=C(C=C1)C(C#N)CCCCl | C11H11BrClN
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
reactant | water | 33 mL | O | H2O
product | 2-(4-bromophenyl)-5-chloro-pentanoic acid | 3.8 g, 90% | BrC1=CC=C(C=C1)C(C(=O)O)CCCCl | C11H12BrClO2
